US07652041B2
Step 1: Preparation of 1-chloro-3-methoxy-4-nitro-2-(trifluoromethyl)benzene
A mixture of 3-chloro-6-nitro-2-(trifluoromethyl)phenol (1.00 g, 4.14 mmol), cesium carbonate (4.05 g, 12.4 mmol), and iodomethane (465 μL, 7.45 mmol) in DMF (20 mL) was allowed to stir at rt overnight. The reaction mixture was diluted with EtOAc and poured into water. The mixture was extracted 3 times with EtOAc and the organic solution was dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography (SiO2, EtOAc in hexanes) provided the title compound. 1H NMR (300 MHz, CDCl3) δ: 7.90 (d, 1H), 7.40 (d, 1H), and 3.97 (s, 3H).

reactant | 3-chloro-6-nitro-2-(trifluoromethyl)phenol | 4.14 mmol, 1.00 g | ClC=1C(=C(C(=CC1)[N+](=O)[O-])O)C(F)(F)F | C7H3ClF3NO3
reactant | cesium carbonate | 12.4 mmol, 4.05 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 7.45 mmol, 465 μL | IC | CH3I
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-chloro-3-methoxy-4-nitro-2-(trifluoromethyl)benzene | ClC1=C(C(=C(C=C1)[N+](=O)[O-])OC)C(F)(F)F | C8H5ClF3NO3
